US08877772B2
Preparation of 4-[5-bromo-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-3-yl]-benzamide (Intermediate CA)
5-Bromo-3-iodo-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridine (Intermediate BZ, 483 mg, 1.01 mmol), 4-aminocarbonylphenylboronic acid (196 mg, 1.22 mmol) and dichlorobis(triphenylphosphine)palladium (II) (71 mg, 0.1 mmol) were combined in CH3CN (10 ml) and 1 M Na2CO3 (10 ml) and stirred at 60° C. for 3 hrs. Water was added and the mixture was extracted with DCM and purified by silica gel chromatography using 0-30% EtOAc/Hexanes. The title compound was obtained in 79% yield (373 mg). 1H NMR (CDCl3, 300 MHz): δ 8.51 (d, J=1.2 Hz, 1H), 8.20 (d, J=1.2 Hz, 1H), 8.11 (d, J=5.1 Hz, 2H), 7.96 (s, 1H), 7.93 (d, J=5.0 Hz, 2H), 7.64 (d, J=5.1 Hz, 2H), 7.31 (d, J=4.8 Hz, 2H), 6.1 (bs, 1H), 5.7 (bs, 1H), 2.39 (s, 3H).

reactant | 5-Bromo-3-iodo-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridine | 1.01 mmol, 483 mg | BrC=1C=C2C(=NC1)N(C=C2I)S(=O)(=O)C2=CC=C(C=C2)C | C14H10BrIN2O2S
reactant | 4-aminocarbonylphenylboronic acid | 1.22 mmol, 196 mg | NC(=O)C1=CC=C(C=C1)B(O)O | C7H8BNO3
reactant | Na2CO3 | 1 M, 10 ml | C(=O)([O-])[O-].[Na+].[Na+]
reactant | Water | O | H2O
solvent | CH3CN | 10 ml | CC#N | C2H3N
catalyst | dichlorobis(triphenylphosphine)palladium | 0.1 mmol, 71 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 4-[5-bromo-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridin-3-yl]-benzamide | 79% yield | BrC=1C=C2C(=NC1)N(C=C2C2=CC=C(C(=O)N)C=C2)S(=O)(=O)C2=CC=C(C=C2)C | C21H16BrN3O3S
